US08445509B2
Production of N-[4-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-a]pyridin-6-yl}oxy)-3-fluorophenyl]-6-ethyl-2-oxo-1-phenyl-1,2-dihydropyridine-3-carboxamide
To a solution of N-[6-(4-amino-2-fluorophenoxy)imidazo[1,2-a]pyridin-2-yl]cyclopropanecarboxamide (100 mg, 0.306 mmol) and 6-ethyl-2-oxo-1-phenyl-1,2-dihydropyridine-3-carboxylic acid (89 mg, 0.366 mmol) in N,N-dimethylformamide (1.0 mL) were added HATU (151 mg, 0.397 mmol) and N,N-diisopropylethylamine (105 μL, 0.612 mmol), and the mixture was stirred at room temperature for 17 hr. Ethyl acetate and saturated aqueous sodium hydrogen carbonate solution were added to the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and filtered, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography (ethyl acetate) to give a white solid. The obtained white solid was washed with ethyl acetate to give the title compound (100 mg, 59%) as a white solid.

reactant | N-[6-(4-amino-2-fluorophenoxy)imidazo[1,2-a]pyridin-2-yl]cyclopropanecarboxamide | 0.306 mmol, 100 mg | NC1=CC(=C(OC=2C=CC=3N(C2)C=C(N3)NC(=O)C3CC3)C=C1)F | C17H15FN4O2
reactant | 6-ethyl-2-oxo-1-phenyl-1,2-dihydropyridine-3-carboxylic acid | 0.366 mmol, 89 mg | C(C)C1=CC=C(C(N1C1=CC=CC=C1)=O)C(=O)O | C14H13NO3
reactant | HATU | 0.397 mmol, 151 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N,N-diisopropylethylamine | 0.612 mmol, 105 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | N,N-dimethylformamide | 1.0 mL | CN(C=O)C | C3H7NO
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-[4-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-a]pyridin-6-yl}oxy)-3-fluorophenyl]-6-ethyl-2-oxo-1-phenyl-1,2-dihydropyridine-3-carboxamide | 100 mg, 59% | C1(CC1)C(=O)NC=1N=C2N(C=C(C=C2)OC2=C(C=C(C=C2)NC(=O)C=2C(N(C(=CC2)CC)C2=CC=CC=C2)=O)F)C1 | C31H26FN5O4
